US06716861B2
(3R)-N-(benzyloxy)-6-cyclohexyl-3-{-4-[(isopropylamino)methyl]-1,3-oxazol-2-yl}hexanamide
A solution of (3R)-N-(benzyloxy)-6-cyclohexyl-3-(4-formyl-1,3-oxazol-2-yl)hexanamide (preparation 156) (200 mg, 0.50 mmol) in DCM (10 ml) was treated with isopropylamine (43 μl, 0.50 mmol) and stirred at room temperature for 15 minutes. NaHB(OAc)3 (170 mg, 0.80 mmol) and AcOH (29 μl, 0.50 mmol) were added and the reaction mixture stirred at room temperature for 1 hour. The reaction mixture was diluted with DCM and washed with sat. NaHCO3 solution followed by brine. The organic extract was dried over anhydrous MgSO4 and filtered. The solvent was removed under reduced pressure. The crude material was purified on a silica column eluting with a solvent gradient of DCM:MeOH:NH3 (100:0:0) gradually changing to (95:5:0.5) to afford the title compound as a colourless oil (75 mg, 32%).

reactant | (3R)-N-(benzyloxy)-6-cyclohexyl-3-(4-formyl-1,3-oxazol-2-yl)hexanamide | 0.50 mmol, 200 mg | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC=C(N1)C=O)=O | C23H30N2O4
reactant | isopropylamine | 0.50 mmol, 43 μl | C(C)(C)N | C3H9N
reactant | AcOH | 0.50 mmol, 29 μl | CC(=O)O | C2H4O2
reactant | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (3R)-N-(benzyloxy)-6-cyclohexyl-3-{-4-[(isopropylamino)methyl]-1,3-oxazol-2-yl}hexanamide | 75 mg, 32% | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC=C(N1)CNC(C)C)=O | C26H39N3O3
